Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Anectine / Metubine Iodide / Diprivan / Hyskon / Fentanyl / 
Gluten / Succinylcholine
 
Attending: ___.
 
Chief Complaint:
"I feel lke there is nothing left in the tank"

Patient sent to ___ from her outpatient psychiatrist's office for 
SI after being overwhelmed by many family stressors.  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  Ms ___ is a ___ yo F with a PMHx
significant for OCD, depression, anxiety, and celiac disease who
arrived , and presents sectioned from her outpatient therapist's
office after reporting 10 days of worsening depression with
suicidal ideation in the setting of multiple psychosocial
stressors (interpersonal conflict with children, divorce,
unstable housing, and workplace stress).

On interview, she reports that she started feeling like she
didnt't have the resources to cope with everything on her plate. 

She started considering if there was an easy way out, she would
"take it".  She states this is very atypcial for her.

She notes she has many stressful life events including a child
who recently dropped out of HS, a child who recently dropped out
of college and both are using drugs, both are mae to female
transgender.  She is undergoing a divorce she initiated after
being the sole breadwinner and only "execute function", and they
have not sold the house yet.  She states she feels like she is
"at a dead end". She states that she does not know how to help
her kids.  She also states she feels like she does not have the
capacity to hold down a full-time job.

She feels ___ has been crying non-stop over the last week, she
feels like she "has nothing to look forward to". She states that
she feels hopeless, guilty and "like a total and complete
failure". She reports that she told her friend ___ last 
___
if there was a "pill she culd take and go to sleep" she would do
it in a minute.  She also notes standing next to the train 
tracks
and considering "jumping off".  She has had to take precautions
walking to the opposite side of the train tracks to prevent
herself from doing anything.  She has also considered driving 
off
the road, but didn't want to hurt her friend who was in the car. 

She also has been researching on the internet effective ways "to
kill yourself".  She notes fears that she would not actually 
die.
She states she does not have access to a gun, or have friends
with access to a gun.  She states that if she had access to a
garage she would "take the painless way out".  She states she 
has
"lived a good life" and that she has "had a good career" and she
"doesn't have anything else to add".  She has noticed an 
increase
in her appetite over the last 4 days, felt "hungry a lot".  She
states she could sleep 12 hours a night and she is "dragging
herself out of bed".  She states it has been particularly
difficult over the last week and she wants to pull the covers
over her head and head.

She states she has not had any OCD symptoms for ___ years.  She
does still have nightmares about trying to find a public
bathroom.

Psychiatric ROS:
Depression - endorses symptoms including anhedonia, 
hopelessness,
guilt, fatigue, difficulty concentrating, changes in appetite
(increase), and sleep disturbances.
Psychosis - denies symptoms including delusions (persecutory,
grandiose, thought broadcasting/insertion/withdrawal) or
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- denies symptoms including elevated mood or irritability,
marked increases in goal-directed behavior, racing thoughts, a
decreased need for sleep, or social/economic indiscretion
Anxiety - denies symptoms including panic attacks or 
agoraphobia.

Collateral, Summarized as Per Dr. ___ note dated
___: 
Patient reported 10 days of worsening depression and feeling
overwhelmed in the setting of conflict with her children and
pressure at work.  She reported 1 week of suicidal ideation and
has been researching ways to kill herself on the internet.  She
notes her primary deterrent to making a suicide attempt is fear
that it would not be successful.  She reports unclear intent and
stated, "I just don't know" when asked about intent to act on
suicidal thoughts.  She also reports great concern on the part 
of
her friends and romantic partner who have been checking on her
frequently.
Dr. ___ spoke with Dr. ___ was concerned about
her recent suicidal ideation and stated that her reported intent
to Dr. ___ in the ___ was new and concerning

PAST PSYCHIATRIC HISTORY:
Sx: depression (mild after death of mother), post-partum
depression, variable sleep, increased anxiety, irritability,
crying spells, rumination (particularly about medical illness),
decreased concentration, repetitive behaviors
Hospitalizations: None 
Current treaters and treatment: Outpatient therapist Dr. ___ (___) 
Medication and ECT trials: St ___ Wort, Zoloft, Prozac
Self-injury/Suicide attempts: None - pt is researching suicide
methods for the first time 
Harm to others: None 
Access to weapons: None 

 
Past Medical History:
PAST MEDICAL HISTORY:
PCP ___,  ___
Migraine Headaches - carries dx, does not consider real 
diagnosis
hx of floaters in eyes
Hx of muscle twitches evaluated by neurologist
Hx of mild abnormalities on EEG (no anticonvulsant recommended)
Celiac Sprue - treated w gluten free diet
 
Social History:
SOCIAL HISTORY:
B/R: Born - ___, Raised - ___, moved to ___ in ___ 
Family:  Pt is recently divorced, Pt has 2 children, who both
identify as transgender, her younger child is experiencing 
mental
health issues and her older child is struggling academically at
___, pt's mother and uncle both nonsmokers,
deceased ___ lung cancer, pt is eldest child of 4 ___ younger
siblings) pt's parents divorced when pt age ___ - shock to 
family,
pt's father professor of hx at ___, pt's mother child
psychology/human resources
Housing: 1 week rent a room in the house with friends and other
week she is back at home, attempting to sell her hourse of ___
years
Education: Good student, Studied psychology in college, ___ ___ for ___ 
Employment/Income: in ___ started a ___ non-profit 
Spiritual: "mildly spiritual"
Access to Weapons: Pt denies access to weapons such as a gun
Military History: ___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Fam Dx: mother - depression, maternal grandmother - also
depressed, paternal grandfather - alcoholic, died of cirrhosis,
both children - depression, anxiety, panic disorder, gender
dysphoria  
Fam Hospitalizations: don't believe any hospitalizations
Fam Treatment Hx/Med Trials: maternal grandmother "heavily
medicated" - narcotic, sedative 
Fam Hx Suicide: umknown 
 
Physical Exam:
VS: BP=125/92, HR=69, T=98.0, RR=16, SaO2=100 %  on RA
 * General: NAD. Well-nourished, well-developed. Appears stated
age.
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Neck: Supple, trachea midline. No adenopathy or thyromegaly.
 * Back: No significant deformity. No focal tenderness.
 * Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
 * CV: Regular rate and rhythm. No murmurs/rubs/gallops. 
 * Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry. No readily apparent rashes, scars, or
lesions.

 Neurological:
   *Cranial Nerves:
        I: Not tested.
        II: Pupils equally round and reactive to light
 bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally
 without nystagmus.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. No gross focal motor or sensory deficits,
normal gait.
   *Coordination: Normal on finger-nose-finger.
   *Deep tendon reflexes: 2+ and symmetrical.
   *Sensation: Intact to light touch, position sense intact.
   *Gait: Steady. No truncal ataxia. Normal stance and posture.

 NEUROPSYCHIATRIC EXAMINATION:
 * Appearance: NAD. Appears stated age. Well kept on 
examination.
Wearing hospital gown, carrying books and papers.  
 * Behavior: Appropriate with good eye contact, and she is
cooperative with interview.
 * Orientation: Oriented to self, location, and date.
 * Mood: "Overwhelmed." 
 * Affect: Sad and congruent to stated mood.
 * Thought Process: Logical and goal directed. No loosening of
associations. No apparent disorganization.
 * Thought Content: Focused on family stressors. Feels safe in
hospital though has passive SI. Denies HI. Free of any evidence
of psychosis.
 * Judgment: fair.
 * Insight: fair.
 * Speech: Spontaneous. Normal conversational volume, tone, 
rate,
and prosody.

 COGNITION:
 * Memory: Registration ___. Recall ___. Remote memory intact.
 * Abstraction: Apple/orange = fruits.
 * Calculation: $1.75 = 7 quarters.
 * Fund of knowledge: Names ___ presidents and 2 current events.
 * Attention span: Correctly listed MOYB without error.
 * Language: Fluent ___ speaker. No apparent paraphrasic
errors.

 
Pertinent Results:
___ 05:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 05:00PM   PLT COUNT-252
___ 05:00PM   NEUTS-62.8 ___ MONOS-9.3 EOS-1.2 
BASOS-0.6 IM ___ AbsNeut-4.88 AbsLymp-2.00 AbsMono-0.72 
AbsEos-0.09 AbsBaso-0.05
___ 05:00PM   WBC-7.8 RBC-4.50 HGB-13.4 HCT-41.8 MCV-93 
MCH-29.8 MCHC-32.1 RDW-13.0 RDWSD-44.0
___ 05:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:00PM   GLUCOSE-102* UREA N-17 CREAT-0.8 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-28 ANION GAP-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission.  She signed a 3 day notice to expire 
on ___, but then retracted that notice on ___.  They were also 
placed on q15 minute checks status on admission and remained on 
that level of observation throughout while being unit 
restricted.

2. PSYCHIATRIC:
#) MDD 
Patient has a history of treatment responsive depression and has 
been seen as an outpatient for about ___ years.  Prozac was 
working well for her prior to admission, however, due to many 
family stressors, she became acutely more depressed, hopeless, 
tired and felt that if there was an easy way to go to sleep and 
not wake up she would do it.  She went to a scheduled outpatient 
psychiatry appointment and was distraught and endorsing SI so 
was sent to the ___ for evaluation and then admitted to the unit. 
 She reports many stressors, mostly revolving around her family 
including a recent divorce which she wanted but is still 
stressful and both of her children are transgender, drop outs 
from school, have mental health issues and are smoking pot 
frequently despite her asking them not to.  She has been taking 
care of her family with little outside help and working full 
time.  She described feeling like she had coped for a long time 
but was out of energy to keep going.
Patient was initially upset at being admitted, but she began to 
appreciate the break from her stressors at home.  She and her 
outpatient provider felt that ___ was helpful, so the dose 
was increased to 80 mg rather than switching to a different 
SSRI.  She participated in groups and reached out to many family 
members which were supportive.  Given that most of her stress 
was due to her children, a family meeting was arranged.  She 
found this helpful especially as her sister was able to come to 
the meeting and see how difficult the situation with her 
children is and was able to be supportive.  She concluded from 
this admission that she needs a break so rather than going right 
back to work and to her children, she is going to take some time 
off from work and living in the house with her children.  She is 
going to consider a partial program and she would like to work 
with a therapist more closely.  She will also continue to see 
___.    

3. SUBSTANCE USE DISORDERS:
#) Denies

4. MEDICAL
#)Celiac disease 
Patient was put on a gluten free diet 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Family meeting held with her children, step child, ex-husband 
and sister.   

#) INTERVENTIONS
- Medications: Prozac 80 mg
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her level of 
distress and SI.  Their static factors noted at that time 
include Caucasian race, age and marital status (recently 
divorced).   The modifiable risk factors included hopelessness, 
limited social supports and recent personal loss (stress around 
children dropping out of school and using drugs).  Patient used 
hospitalization to increase her family support and to discuss 
with children and ex-husband her level of distress.  Team and 
patient discussed plan for her to take time away from these 
stressors, start more intensive therapy for herself and a 
partial program.  Finally, the patient is being discharged with 
many protective risk factors including help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, 
children in the home, life satisfaction, reality testing 
ability, good coping skills, good problem-solving skills, 
positive therapeutic relationship with outpatient providers, no 
history of substance use disorder and no history of abuse.  
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

Our Prognosis of this patient is good based on her very high 
level of function, ability to plan and cope and increased 
support network.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY 
2. Minocycline 100 mg PO Q24H acne  
3. ibandronate 150 mg oral monthly 
4. Docusate Sodium 200 mg PO QAM 
5. Calcium Carbonate Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 200 mg PO BID 
2. FLUoxetine 80 mg PO DAILY 
RX *fluoxetine 40 mg 2 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
3. Minocycline 100 mg PO BID acne  
4. ibandronate 150 mg oral monthly 
5. Calcium Carbonate 1000 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
General: NAD, good hygiene, appears stated age, casually dressed 

Behavior: Cooperative, polite, good eye contact, pleasant 
Speech: Fluent ___, regular volume tone and rate
Mood/Affect: 'Better', appears mood congruent, tearful at times 
but smiling as she discusses future plans 
Thought content: Linear, goal directed, future oriented, very 
reasonable and hopeful 
Insight/Judgment: Good/Good 

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for depression with suicidal 
ideation.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___